data/mechanism_extracts/ChemCommun/10.1039_D4CC05092D_sup_1.json
{"doi": "10.1039_D4CC05092D_sup_1", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical cyclopropanation of cinnamaldehydes with dimethyl malonate via iminium/enamine organocatalysis combined with iodide electrocatalytic mediation", "mechanism_family": ["mediator_anodic", "electrocatalysis_outer_sphere", "paired_electrolysis", "radical_cation"], "electrochemical_role": "Anodic oxidation of iodide to iodine radical (E-cat cycle) and anodic oxidation of the enamine intermediate (ii) to a radical cation that captures the iodine radical; cathode reduces protons to H2", "key_intermediates": [{"name": "iminium ion from condensation of pyrrolidine catalyst with cinnamaldehyde 1a (i)", "smiles": null, "role": "reactive"}, {"name": "enamine adduct after Michael addition of dimethyl malonate (ii)", "smiles": null, "role": "reactive"}, {"name": "enamine-derived radical cation captured by I• (ii-a/iii)", "smiles": null, "role": "transient"}, {"name": "α-iodo iminium intermediate (iii)", "smiles": null, "role": "reactive"}, {"name": "cyclopropane-fused iminium (iv) after intramolecular SN2 displacement of iodide", "smiles": null, "role": "reactive"}, {"name": "iodine radical (I•) generated at the anode", "smiles": "[I]", "role": "reactive"}, {"name": "cyclopropane aldehyde product 3a", "smiles": "O=CC1(C(=O)OC)(C(=O)OC)C1c1ccccc1", "role": "reactive"}], "electron_flow": "At the anode, iodide is oxidized to I• (E-cat cycle); in parallel the enamine intermediate (ii) is anodically oxidized to a radical cation that couples with I• to give an α-iodo iminium (iii). Intramolecular displacement of iodide by the malonate carbon closes the cyclopropane (iv); hydrolysis releases product 3a and regenerates the pyrrolidine catalyst, while the cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["other"], "evidence_strength": "weak", "notes": "This scheme (Scheme S2) is presented as an ALTERNATIVE mechanism to the main proposal: instead of α-iodination of the enamine by I• directly, the enamine is first oxidized anodically to a radical cation which then captures I•. Both pathways converge on the α-iodo iminium (iii) and subsequent intramolecular cyclopropanation. No probe experiments (TEMPO, KIE, CV, DFT) are shown on this page to distinguish the two."}
